US07064215B2
Synthesis of 4-Fluoro-5-(4-isopropyl-piperazin-1-yl)-2-nitro-phenylamine
4,5-Difluoro-2-nitrophenylamine (1.0 equivalent) and N-isopropyl piperazine were heated at 100° C. for 3 hours. The solution was then cooled to room temperature and diluted with water. The resulting precipitate was filtered and dried under vacuum to provide title compound product. LC/MS (m/z) 283.2 (MH+), Rt 1.56 minutes.

reactant | 4,5-Difluoro-2-nitrophenylamine | 1.0 equivalent | FC1=CC(=C(C=C1F)N)[N+](=O)[O-] | C6H4F2N2O2
reactant | N-isopropyl piperazine | C(C)(C)N1CCNCC1 | C7H16N2
solvent | water | O | H2O
product | 4-Fluoro-5-(4-isopropyl-piperazin-1-yl)-2-nitro-phenylamine | FC1=CC(=C(C=C1N1CCN(CC1)C(C)C)N)[N+](=O)[O-] | C13H19FN4O2
